US04091016
Preparation of N-Methyl-N(Phenylthiosulfenyl)Carbamoyl Fluoride (Method I)
Prepared by the procedure of Example II by reacting phenylthiosulfenyl chloride with methylcarbamoyl fluoride. b.p. 100°-110° C/0.3 Torr ND22.5 1.5770.

reactant | phenylthiosulfenyl chloride | C1(=CC=CC=C1)SSCl | C6H5ClS2
reactant | methylcarbamoyl fluoride | CNC(=O)F | C2H4FNO
product | N-Methyl-N(Phenylthiosulfenyl)Carbamoyl Fluoride | CN(C(=O)F)SSC1=CC=CC=C1 | C8H8FNOS2
